US08022062B2
(±)-3,3-Dimethyl-1-p-tolylbutan-1-ol:
To a stirred solution of 4-methylbenzaldehyde (1.51 g, 12.6 mmol) in THF (30 mL) at 0° C., add neopentyl magnesium chloride (33.0 mL, 16.34 mmol, 0.5-1M in ether) and continue stirring at 0° C. for 1 h. Dilute with saturated aqueous NH4Cl, extract three times with EtOAc, dry over anhydrous Na2SO4, and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (95:5) to give the desired intermediate as a colorless oil (2.15 g, 89%).

reactant | 4-methylbenzaldehyde | 12.6 mmol, 1.51 g | CC1=CC=C(C=O)C=C1 | C8H8O
reactant | neopentyl magnesium chloride | 16.34 mmol, 0.5-1M, 33.0 mL | C(C(C)(C)C)[Mg]Cl
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | NH4Cl | [NH4+].[Cl-]
product | (±)-3,3-Dimethyl-1-p-tolylbutan-1-ol | 2.15 g, 89% | CC(CC(O)C1=CC=C(C=C1)C)(C)C | C13H20O
